US09085576B2
5-(Difluoromethyl)-5-(3-fluoro-2-methyl-5-nitrophenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (200 mg, 0.634 mmol) was dissolved in THF (20 ml). 10% palladium on carbon (135 mg, 0.127 mmol) was added and the reaction mixture was put under a balloon of H2 and stirred at 18° C. for 4 h. The mixture was filtered through a pad of celite, washing well with ethyl acetate. The filtrate was concentrated under vacuum to yield crude 5-(5-amino-3-fluoro-2-methylphenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine (140 mg, 0.491 mmol, 77% yield) as a gray foam. LC/MS (ESI+) m/z=286.2 (M+H)

reactant | 5-(Difluoromethyl)-5-(3-fluoro-2-methyl-5-nitrophenyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 0.634 mmol, 200 mg | FC(C1(N=C(OC2CC12)N)C1=C(C(=CC(=C1)[N+](=O)[O-])F)C)F | C13H12F3N3O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.127 mmol, 135 mg | [Pd] | Pd
product | 5-(5-amino-3-fluoro-2-methylphenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-amine | 0.491 mmol, 140 mg, 77% yield | NC=1C=C(C(=C(C1)C1(N=C(OC2CC12)N)C(F)F)C)F | C13H14F3N3O
